US07192982B2
(2S)-2-Methoxy-3-{4-[3-(3-phenylamino-phenoxy)-propoxy]-phenyl}-propionic acid
The title compound was prepared from (2S)-3-[4-(3-hydroxy-propoxy)-phenyl]-2-methoxy-propionic acid linked to Wang's Resin (Example 94, Step D) via Mitsunobu coupling with 3-hydroxydiphenylamine and cleavage from the resin (Standard Procedure G) gave an oily solid (4%). 1H-NMR (200.15 MHz, CDCl3): δ 7.31–6.81 (m, 8H), 6.83 (d, 2H, J=8.6), 6.65–6.62 (m, 2H), 6.48 (dd, 1H, J=8.2, 2.1), 4.12 (t, 4H, J=6.2), 3.99 (dd, 1H, J=7.0, 4.4), 3.40 (s, 3H), 3.10 (dd, 1H, J=14.2, 4.4), 2.95 (dd, 1H, J=14.2, 7.0), 2.22 (qn, 2H, J=6.2).

reactant | (2S)-3-[4-(3-hydroxy-propoxy)-phenyl]-2-methoxy-propionic acid | OCCCOC1=CC=C(C=C1)C[C@@H](C(=O)O)OC | C13H18O5
reactant | 3-hydroxydiphenylamine | C1=CC=C(C=C1)NC2=CC(=CC=C2)O | C12H11NO
product | (2S)-2-Methoxy-3-{4-[3-(3-phenylamino-phenoxy)-propoxy]-phenyl}-propionic acid | CO[C@H](C(=O)O)CC1=CC=C(C=C1)OCCCOC1=CC(=CC=C1)NC1=CC=CC=C1 | C25H27NO5
